US07417169B2
Trifluoromethanesulfonic anhydride (0.944 mL) was added to an ice-cooled mixture of ethyl vanillate (1.00 g) and pyridine (0.454 mL) in methylene chloride (5 mL) with stirring, and the mixture was stirred for 10 minutes. The reaction mixture was poured into a mixture of 1 mol/L hydrochloric acid and ethyl acetate. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/10) to afford ethyl 3-methoxy-4-trifluoromethanesulfonyloxybenzoate (1.467 g).

reactant | Trifluoromethanesulfonic anhydride | 0.944 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ethyl vanillate | 1.00 g | C(C1=CC(OC)=C(O)C=C1)(=O)OCC | C10H12O4
reactant | pyridine | 0.454 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-methoxy-4-trifluoromethanesulfonyloxybenzoate | 1.467 g | COC=1C=C(C(=O)OCC)C=CC1OS(=O)(=O)C(F)(F)F | C11H11F3O6S
